US07723330B2
Step B: Preparation of methyl 3-(allyl(4-fluorophenyl)amino)-3-oxopropanoate:
Methyl 3-chloro-3-oxopropanoate (9.4 ml, 87 mmol) was added into a solution of N-allyl-4-fluorobenzenamine (12 g, 79 mmol), DIEA (15 ml, 87 mmol) and DMAP (0.97 mg, 7.9 mmol) in CH2Cl2 (200 mL) at 0° C. under nitrogen. The reaction was stirred at 0° C. for 1 hour. The reaction mixture was poured into ice and water, extracted with CH2Cl2, washed with saturated aqueous NaHCO3 and brine. The organic layer was dried with Na2SO4, filtered and concentrated. The residue was purified by flash column chromatography (50% EtOAc in hexane) to afford the product (18.3 g, 92% yield) as brown oil.

reactant | Methyl 3-chloro-3-oxopropanoate | 87 mmol, 9.4 ml | ClC(CC(=O)OC)=O | C4H5ClO3
reactant | N-allyl-4-fluorobenzenamine | 79 mmol, 12 g | C(C=C)NC1=CC=C(C=C1)F | C9H10FN
reactant | DIEA | 87 mmol, 15 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
catalyst | DMAP | 7.9 mmol, 0.97 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(allyl(4-fluorophenyl)amino)-3-oxopropanoate | 18.3 g, 92% yield | C(C=C)N(C(CC(=O)OC)=O)C1=CC=C(C=C1)F | C13H14FNO3
